US07855297B2
By the reaction and treatment in the same manner as in Example 83 using 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (1.44 g) and 2-chloro-5-(chloromethyl)thiophene (0.79 g) as starting materials, 5-benzyloxy-N-({1-[(5-chlorothiophen-2-yl)methyl]pyrazol-4-yl}methyl)-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (1.37 g) was obtained. By the reaction and treatment of this compound in the same manner as in Example 133, N-({1-[(5-chlorothiophen-2-yl)methyl]pyrazol-4-yl}methyl)-5-hydroxy-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.37 g) was obtained. melting point: 98-101° C.

reactant | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 1.44 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NNC1)C=1C=NC(=CC1)C(C)C | C30H32N4O2
reactant | 2-chloro-5-(chloromethyl)thiophene | 0.79 g | ClC=1SC(=CC1)CCl | C5H4Cl2S
product | 5-benzyloxy-N-({1-[(5-chlorothiophen-2-yl)methyl]pyrazol-4-yl}methyl)-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 1.37 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(C=1C=NC(=CC1)C(C)C)CC=1C=NN(C1)CC=1SC(=CC1)Cl | C35H35ClN4O2S
